US04451484
A mixture of 9,10-dihydrophenanthrene-1-methanol (0.5 gram, 0.0024 mole) and pyridine (1 gram, 0.013 mole) in benzene (25 ml) was added to a stirred solution of cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride (0.7 gram, 0.0031 mole) in benzene (25 ml). The mixture was stirred at room temperature for 2.5 days, then partitioned between water (80 ml) and diethyl ether (50 ml). The organic phase was separated and washed consecutively with water, 10% aqueous sodium carbonate and water. The organic phase was then dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated to give a yellow oil. The oil was purified by chromatography on silica gel to give (9.10-dihydro-1-phenanthryl)methyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate as an oil.

reactant | 9,10-dihydrophenanthrene-1-methanol | 0.0024 mole, 0.5 gram | C1(=CC=CC=2C3=CC=CC=C3CCC12)CO | C15H14O
reactant | pyridine | 0.013 mole, 1 gram | N1=CC=CC=C1 | C5H5N
reactant | cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.0031 mole, 0.7 gram | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
product | (9.10-dihydro-1-phenanthryl)methyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=CC=CC=2C3=CC=CC=C3CCC12)(C)C)Cl | C23H22Cl2O2
